US04585780
3-Benzyloxy-1-carboxymethylpyrid-2-one (2 g) is dissolved in dimethylformamide (DMF) (25 ml) and to this solution is added N-hydroxysuccinimide (1 g). The resultant solution is cooled and to it is added dicyclohexylcarbodiimide (DCCI) (11.8 g) in DMF (5 ml). The mixture is allowed to stand overnight to give a brown supernatant and a white precipitate. The precipitate is filtered off, washed with a little DMF and then evaporated to dryness under high vacuum. The crude product is dissolved in a minimum volume of dichloromethane and diethyl ether is added to this solution until it becomes cloudy. The solution is then cooled and the resultant precipitate is filtered off and washed with a little diethyl ether to give 3-benzyloxy-1-(succinimido-oxycarbonylmethyl)-pyrid-2-one (2.26 g, 82%), m.p. 187°-188° C.

reactant | 3-Benzyloxy-1-carboxymethylpyrid-2-one | 2 g | C(C1=CC=CC=C1)OC=1C(N(C=CC1)CC(=O)O)=O | C14H13NO4
reactant | N-hydroxysuccinimide | 1 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 11.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | DMF | 5 ml | CN(C=O)C | C3H7NO
product | 3-benzyloxy-1-(succinimido-oxycarbonylmethyl)-pyrid-2-one | 2.26 g, 82% | C(C1=CC=CC=C1)OC=1C(N(C=CC1)CC(=O)ON1C(CCC1=O)=O)=O | C18H16N2O6
